US04439437
2-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-3-carbethoxy-4,5-propanopyridine (15.0 g, 41.7 m.mole) and concentrated hydrochloric acid (36% w/v, 250 ml) were refluxed for 21 hours. The solution was evaporated to dryness in vacuo, ethanol being added to assist in removal of the water. The residue was rinsed with methanol and isopropanol and dried to give 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]4,5-propanopyridine 3-carboxylic acid dihydrochloride (6.47 g, 38% yield; m.p. 208.5°-209°).

reactant | 2-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-3-carbethoxy-4,5-propanopyridine | 15.0 g | CC1=C(N=CN1)CSCCNC1=NC=C2C(=C1C(=O)OCC)CCC2 | C18H24N4O2S
reactant | hydrochloric acid | 250 ml | Cl | ClH
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]4,5-propanopyridine 3-carboxylic acid dihydrochloride | 6.47 g, 38% yield | Cl.Cl.CC1=C(N=CN1)CSCCNC1=NC=C2C(=C1C(=O)O)CCC2 | InChI=1S/C16H20N4O2S.2ClH/c1-10-13(20-9-19-10)8-23-6-5-17-15-14(16(21)22)12-4-2-3-11(12)7-18-15;;/h7,9H,2-6,8H2,1H3,(H,17,18)(H,19,20)(H,21,22);2*1H
